US08536214B2
b) (S)-Ethyl 1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate hydrochloride
Palladium hydroxide (0.092 mmol, 12.96 mg) was wetted with a small volume of water before addition of (S)-ethyl 1-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (0.092 mmol, 45 mg) in Ethanol (5 mL). A small volume DCM was added to aid solubility. Aq. HCl 5N (0.500 ml) was added before the mixture was left to stand at room temp for around 1.5 h before hydrogenating at 2 bar for 45 min. After this time, the mixture was filtered through a filter tip and concentrated to give the desired product as a colourless oil (36 mg, 0.092 mmol, 100%). 1H NMR (400 MHz, CD3OD) δ 1.33 (t, 3H) 2.98 (m, 2H) 3.40 (m, 2H) 4.10 (m, 1H) 4.31 (q, 2H) 5.50 (s, 2H) 7.05 (d, 1H), 7.10 (s, 1H), 7.27 (d, 1H) 8.04 (s, 1H).

reactant | water | O | H2O
reactant | (S)-ethyl 1-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 0.092 mmol, 45 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC2=CC=C(C=C2C1)CN1N=CC(=C1C(F)(F)F)C(=O)OCC | C25H24F3N3O4
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | HCl | 5N, 0.500 ml | Cl | ClH
solvent | Ethanol | 5 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | 0.092 mmol, 12.96 mg | [OH-].[Pd+2].[OH-]
product | (S)-Ethyl 1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate hydrochloride | 0.092 mmol, 36 mg, 100% | Cl.N[C@H]1CC2=CC=C(C=C2C1)CN1N=CC(=C1C(F)(F)F)C(=O)OCC | InChI=1S/C17H18F3N3O2.ClH/c1-2-25-16(24)14-8-22-23(15(14)17(18,19)20)9-10-3-4-11-6-13(21)7-12(11)5-10;/h3-5,8,13H,2,6-7,9,21H2,1H3;1H/t13-;/m0./s1
